US08541584B2
1.1 0.21 ml (1.50 mmol) of trimethylsilylacetylene and 0.28 ml (2.00 mmol) of triethylamine are added successively to a suspension, kept under argon, of 14 mg (0.02 mmol) of bis(triphenylphosphine)palladium dichloride, 8 mg (0.04 mmol) of copper(I) iodide and 344 mg (1.00 mmol) of tert-butyl 3-iodo-(1H)-pyrrolo[2,3-b]pyridine-1-carboxylate in 5 ml of THF, and the mixture is stirred at room temperature for one hour under argon. Then, for the removal of excess trimethylsilylacetylene, argon is passed through the reaction mixture for 5 minutes. 1.10 ml (1.10 mmol) of a 1 M solution of tetrabutylammonium fluoride in THF are subsequently added, and the reaction mixture is stirred at room temperature for 30 minutes. A solution of 136 mg (1.00 mmol) of benzyl azide in 1 ml of THF is then added, and the reaction mixture is stirred at room temperature for 66 hours. The reaction mixture is adsorbed onto kieselguhr and chromatographed on a silica-gel column with petroleum ether/ethyl acetate 2:1, giving tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate as yellow oil; ESI 376.

reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2.00 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-iodo-(1H)-pyrrolo[2,3-b]pyridine-1-carboxylate | 1.00 mmol, 344 mg | IC1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H13IN2O2
reactant | benzyl azide | 1.00 mmol, 136 mg | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium dichloride | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.04 mmol, 8 mg | [Cu]I
product | tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C21H21N5O2
